US06972297B2
(a) Methyl 4-aminopyridin-2-ylcarboxylate
A solution of methyl 4-nitropyridin-2-ylcarboxylate (0.7 g) (Deady et. al., Aus. J. Chem. 24 (1971)385-390) in methanol (30 ml) was treated with 10% Pd/C (0.3 g) and stirred under hydrogen at atmospheric pressure overnight. The solution was filtered and evaporated to yield the title compound (0.55 g). NMR δ(CDCl3) 3.97(3H,s), 4.34(2H, broad), 6.65(1H,dd), 7.39(1H,d), 8.32(1H,d).

reactant | methyl 4-nitropyridin-2-ylcarboxylate | 0.7 g | [N+](=O)([O-])C1=CC(=NC=C1)C(=O)OC | C7H6N2O4
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | Methyl 4-aminopyridin-2-ylcarboxylate | 0.55 g | NC1=CC(=NC=C1)C(=O)OC | C7H8N2O2
